US09388161B2
A solution of (S)-1-(5-(methoxymethoxy)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (1.6 g, 6.42 mmol) in methanol (16 mL) was treated with concentrated hydrochloric acid (1.0 mL, 12.8 mmol) at rt. The solution was heated to 50° C. for 90 min. Heating was discontinued, and the solution was allowed to slowly cool to room temperature overnight. Methanol was removed under reduced pressure and the residue was partitioned between dichloromethane and water. The aqueous layer was separated and extracted with dichloromethane. The combined organic extracts were concentrated under reduced pressure. The residue was dissolved in acetonitrile (ca. 20-30 mL), and then concentrated under reduced pressure to afford (S)-1-(5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (1.23 g, 93%) as an off-white to tan solid. MS (ESI, pos. ion) m/z 206 [M+1]+.

reactant | (S)-1-(5-(methoxymethoxy)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 6.42 mmol, 1.6 g | COCOC1=C2CC[C@@H](N(C2=CC=C1)C(C)=O)C | C14H19NO3
reactant | hydrochloric acid | 12.8 mmol, 1.0 mL | Cl | ClH
solvent | methanol | 16 mL | CO | CH4O
product | (S)-1-(5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 1.23 g, 93% | OC1=C2CC[C@@H](N(C2=CC=C1)C(C)=O)C | C12H15NO2
